US07816391B2
4-[4-(Oxan-4-ylcarbamoyl)-5-propylsulfanyl-pyrazol-1-yl]benzoic acid
Methyl 4-[4-(oxan-4-ylcarbamoyl)-5-propylsulfanyl-pyrazol-1-yl]benzoate (Intermediate#5) (104 mg, 0.26 mmol) was dissolved in methanol (5 mL) and treated at ambient temperature with 2M aqueous sodium hydroxide solution (0.65 mL, 1.29 mmol). The mixture was stirred at ambient for 18 h. Methanol was removed by evaporation under reduced pressure and the clear solution diluted with water (25 ml). 2M HCl was added to pH4 and the mixture extracted with ethyl acetate (2×25 mL). The combined extracts were washed with water (2×10 mL) and brine (10 mL), dried (MgSO4) and evaporated to give the product as a white solid (89 mg, 85%).

reactant | Methyl 4-[4-(oxan-4-ylcarbamoyl)-5-propylsulfanyl-pyrazol-1-yl]benzoate | 0.26 mmol, 104 mg | O1CCC(CC1)NC(=O)C=1C=NN(C1SCCC)C1=CC=C(C(=O)OC)C=C1 | C20H25N3O4S
reactant | sodium hydroxide | 1.29 mmol, 2M, 0.65 mL | [OH-].[Na+]
solvent | methanol | 5 mL | CO | CH4O
product | 4-[4-(Oxan-4-ylcarbamoyl)-5-propylsulfanyl-pyrazol-1-yl]benzoic acid | 89 mg, 85% | O1CCC(CC1)NC(=O)C=1C=NN(C1SCCC)C1=CC=C(C(=O)O)C=C1 | C19H23N3O4S
